US06936617B2
A solution of n-BuLi in hexanes (1.6 M, 1.4 mL) is added dropwise at −50° C. to a solution of 2-(2,2-dimethoxy-ethyl)-[1,3]dithiane (450 mg, prepared according J. Het. Chem, 1987, 1221) in THF. The mixture is then warmed to −30° C. for 1 hour. After cooling to −50° C., a solution of 6-chloro-2-chloromethyl-3-methyl-imidazo[1,2-a]pyridine (300 mg) in 3 mL of THF is added dropwise; the reaction mixture is then slowly warmed to room temperature. After quenching with aqueous NH4Cl solution, the mixture is extracted with ethyl acetate. The extract is washed with brine, dried over Na2SO4 and concentrated under vacuum. The residue is purified on flash chromatographic column, eluting with 5% MeOH in CH2Cl2, to give 6-Chloro-2-[2-(2,2-dimethoxy-ethyl)-[1,3]dithian-2-ylmethyl]-3-methyl-imidazo[1,2-a]pyridine. 1H NMR (CDCl3, ppm): 7.80 (s, 1H); 7.50(d, 1H); 7.05(d, 1H); 4.80(t, 1H); 3.40(m, 8H); 2.75-3.00(m, 4H); 2.40-2.50(m, 5H); 1.80-2.05(m, 2H). Step 2. Preparation of 6-Chloro-2-[2-(6-fluoro-pyridin-2-yl)-2H-pyrazol-3-ylmethyl]-3-methyl-imidazol[1,2-a]pyridine

reactant | n-BuLi | [Li]CCCC
reactant | 2-(2,2-dimethoxy-ethyl)-[1,3]dithiane | 450 mg | COC(CC1SCCCS1)OC | C8H16O2S2
reactant | 6-chloro-2-chloromethyl-3-methyl-imidazo[1,2-a]pyridine | 300 mg | ClC=1C=CC=2N(C1)C(=C(N2)CCl)C | C9H8Cl2N2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-Chloro-2-[2-(2,2-dimethoxy-ethyl)-[1,3]dithian-2-ylmethyl]-3-methyl-imidazo[1,2-a]pyridine | ClC=1C=CC=2N(C1)C(=C(N2)CC2(SCCCS2)CC(OC)OC)C | C17H23ClN2O2S2
